US07994171B2
2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(pyrimidin-4-yl)cyclopropyl carbamoyl)phenyl)benzofuran-3-carboxamide.
To a mixture of 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid (0.07 g, 0.173 mmol, 1.0 eq) and 1-(pyrimidin-4-yl)cyclopropanamine HCl (0.023 g, 0.173 mmol, 1.0 eq) in DMF at 0° C. was added TEA (0.087 g, 0.861 mmol, 5.0 eq) and BOP reagent (0.114 g, 0.257 mmol, 1.5 eq). The reaction mixture was stirred at r.t. overnight. The reaction mixture was diluted with water and extracted with EtOAc. The organic was dried over Na2SO4, filtered and concentrated. The crude product was purified by silica gel (60-120) column chromatography using 3% MeOH/CHCl3 as eluent and further purified by prep HPLC. Yield: 0.040 g (44.45%). 1H NMR (400 MHz, CD3OD): δ 9.03 (d, J=1.0 Hz, 1H), 8.61 (d, J=5.8 Hz, 1H), 8.04-7.94 (m, 2H), 7.91-7.83 (m, 2H), 7.72-7.64 (m, 2H), 7.57-7.45 (m, 2H), 7.43-7.37 (m, 1H), 7.34-7.24 (m, 2H), 2.96 (s, 3H), 2.37 (s, 3H), 1.90-1.81 (m, 2H), 1.57-1.49 (m, 2H). 19F NMR (376.51 MHz, CD3OD): δ−78.35 (TFA), −113.31. LCMS: (ES+) m/z=521.2 (M+H)+

reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid | 0.173 mmol, 0.07 g, 1.0 eq | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2C | C24H18FNO4
reactant | 1-(pyrimidin-4-yl)cyclopropanamine HCl | 0.173 mmol, 0.023 g, 1.0 eq | Cl.N1=CN=C(C=C1)C1(CC1)N
reactant | BOP reagent | 0.257 mmol, 0.114 g, 1.5 eq | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(pyrimidin-4-yl)cyclopropyl carbamoyl)phenyl)benzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=CC(=C2)C(NC2(CC2)C2=NC=NC=C2)=O)C | C31H25FN4O3
